* Z:\mnt\design.r\spice\examples\3870.asc
V1 IN 0 12
C1 0 N001 1µ
M§Q1 IN N002 N004 N004 RJK0305DPB
M§Q2 N004 N008 0 0 RJK0301DPB
L1 N004 OUT1 .56µ
C2 N005 N004 .1µ
D1 N001 N005 CMDSH2-3
C3 N010 OUT1 .2µ
R1 N004 N010 1.74K
C4 N012 0 2200p
C5 OUT1 0 530µ
R2 OUT1 0 .06
R3 N014 N019 24.9K
R4 0 N014 11.3K
R5 N021 N017 10K
R6 N020 N021 4.99K
R7 N015 N019 10K
R8 0 N015 15.8K
R9 N016 N019 20K
R10 0 N016 12.7K
C6 N013 0 4700p
M§Q3 IN N003 N007 N007 RJK0305DPB
M§Q4 N007 N009 0 0 RJK0301DPB
L2 N007 OUT0 1µ
C7 N006 N007 .1µ
D2 N001 N006 CMDSH2-3
C8 N011 OUT0 .2µ
R11 N007 N011 2.15K
C9 OUT0 0 530µ
Rload0 OUT0 0 .11
C10 N019 0 1µ
C11 N021 0 1µ
XU1 OUT0 0 N010 OUT1 N013 N011 OUT0 N020 MP_01 MP_02 MP_03 MP_04 MP_05 N018 N017 MP_06 N016 N015 N014 NC_07 0 N019 MP_08 MP_09 N021 N012 OUT1 MP_10 N004 N002 N005 N008 N001 0 IN N009 N006 N003 N007 MP_11 0 LTC3880 VIN_ON=5.5 VIN_OFF=5 Vout_0=1.6 Vout_1=2.5 Ilim0_range=0 Ilim1_range=0 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m Freq=500K PHs_0=0 PHs_1=180 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
C12 N022 0 4.7µ
R14 N021 N018 10K
M§Q5 IN N024 N028 N028 RJK0305DPB
M§Q6 N028 N030 0 0 RJK0301DPB
L3 N028 OUT0 1µ
C13 N027 N028 .1µ
D3 N022 N027 CMDSH2-3
C14 N032 OUT0 .2µ
R13 N028 N032 2.15K
C15 OUT0 0 530µ
R12 N033 0 100K
M§Q7 IN N023 N025 N025 RJK0305DPB
M§Q8 N025 N029 0 0 RJK0301DPB
L4 N025 OUT1 .56µ
C16 N026 N025 .1µ
D4 N022 N026 CMDSH2-3
C17 N031 OUT1 .2µ
R15 N025 N031 1.74K
C18 OUT1 0 530µ
XU2 0 N032 OUT0 N018 N017 OUT1 N031 0 N012 N033 0 N020 0 N023 N025 N026 N029 NC_12 N022 IN N030 N027 N028 N024 N017 N018 0 N013 0 LTC3870
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran  1.2m startup
* Please read the following notes carefully, since the model presents different user interface\nthan the real part does.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTC3880. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, \n                425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float \n                (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. \n                Certain combinations are restricted as in datasheet. FREQ_CFG \n                pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0\n                                                      for 4.096V (CH0) and 5.5V (CH1); value 1\n                                                      for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n                           for low 50mV, and 1 for high 75mV;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined\n                      by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, \n                      0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for Burst,\n                      2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                                 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;
.lib LTC3870.sub
.lib LTC3880.sub
.backanno
.end
